US07943669B2
{4-[3-Bromo-5-(3-trifluoromethyl-phenoxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester
1,3-Dibromo-5-(3-trifluoromethyl-phenoxy)-benzene (1.35 g; 3.4 mmol) and (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester (0.7 g; 3.1 mmol) was condensed to give the title product applying the procedure described for {4-[3-Bromo-5-cyclopentylmethoxyphenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester. The crude product was purified by preparative HPLC (Method A) followed by flash chromatography (dichloromethane:heptane 3:7). Yield 0.5 g. HPLC-MS: m/z: 541.3 (M)+; Rt: 3.03 min.

reactant | 1,3-Dibromo-5-(3-trifluoromethyl-phenoxy)-benzene | 3.4 mmol, 1.35 g | BrC1=CC(=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F)Br | C13H7Br2F3O
reactant | (4-Mercapto-2-methyl-phenoxy)-acetic acid ethyl ester | 3.1 mmol, 0.7 g | C(C)OC(COC1=C(C=C(C=C1)S)C)=O | C11H14O3S
product | {4-[3-Bromo-5-(3-trifluoromethyl-phenoxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1=CC(=CC=C1)C(F)(F)F)Br)C)=O | C24H20BrF3O4S
